### PR TITLE
[Merged by Bors] - feat(Analysis): the Sequential Banach-Alaoglu theorem

### PR DESCRIPTION
**Pull request by janemms**
Add the sequential Banach-Alaoglu theorem: closed balls of the dual of a separable
normed space are sequentially compact in the weak-* topology.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Normed/Module/WeakDual.lean [hunk 1]
```diff
@@ -6,7 +6,7 @@ Authors: Kalle Kytölä, Yury Kudryashov
 import Mathlib.Analysis.Normed.Module.Dual
 import Mathlib.Analysis.Normed.Operator.Completeness
 import Mathlib.Topology.Algebra.Module.WeakDual
-
+import Mathlib.Topology.MetricSpace.PiNat
```
Comment (themathqueen) [inline Mathlib/Analysis/Normed/Module/WeakDual.lean]:
```suggestion
import Mathlib.Topology.MetricSpace.PiNat

```

File: Mathlib/Analysis/Normed/Module/WeakDual.lean [hunk 2]
```diff
@@ -255,4 +255,65 @@ theorem isCompact_closedBall [ProperSpace 𝕜] (x' : StrongDual 𝕜 E) (r : 
...
+    have : Set.EqOn w y (.range vs) := by
+      simpa [Set.eqOn_range] using (Set.eqOn_univ (w ∘ vs) (y ∘ vs)).mp fun x _ ↦ w_ne_y x
+    exact DFunLike.coe_fn_eq.mp (Continuous.ext_on (TopologicalSpace.denseRange_denseSeq V)
+      (map_continuous w) (map_continuous y) this)
+
+/-- A compact subset of the dual space of a separable space is metrizable. -/
+lemma metrizable_of_compact (K_cpt : IsCompact K) : TopologicalSpace.MetrizableSpace K := by
+  have : CompactSpace K := isCompact_iff_compactSpace.mp K_cpt
+  obtain ⟨gs, gs_cont, gs_sep⟩ := exists_continuous_separating 𝕜 V
+  let hs : ℕ → K → 𝕜 := fun n ↦ fun ϕ ↦ gs n (ϕ : WeakDual 𝕜 V)
```
Comment (themathqueen) [inline Mathlib/Analysis/Normed/Module/WeakDual.lean]:
```suggestion
```

File: Mathlib/Analysis/Normed/Module/WeakDual.lean [hunk 3]
```diff
@@ -255,4 +255,65 @@ theorem isCompact_closedBall [ProperSpace 𝕜] (x' : StrongDual 𝕜 E) (r : 
...
+  refine Metric.PiNatEmbed.TopologicalSpace.MetrizableSpace.of_countable_separating
```
Comment (themathqueen) [inline Mathlib/Analysis/Normed/Module/WeakDual.lean]:
```suggestion
  exact Metric.PiNatEmbed.TopologicalSpace.MetrizableSpace.of_countable_separating
```

File: Mathlib/Analysis/Normed/Module/WeakDual.lean [hunk 4]
```diff
@@ -255,4 +255,65 @@ theorem isCompact_closedBall [ProperSpace 𝕜] (x' : StrongDual 𝕜 E) (r : 
...
+variable (𝕜 : Type*) [NontriviallyNormedField 𝕜] [ProperSpace 𝕜]
+variable (V : Type*) [SeminormedAddCommGroup V] [NormedSpace 𝕜 V]
+variable [TopologicalSpace.SeparableSpace V]
+variable (K : Set (WeakDual 𝕜 V)) (K_cpt : IsCompact K)
+
+theorem isSeqCompact_of_bounded_of_closed {s : Set (WeakDual 𝕜 V)}
+    (hb : Bornology.IsBounded (StrongDual.toWeakDual ⁻¹' s)) (hc : IsClosed s) :
+    IsSeqCompact s := by
+  have b_isCompact : IsCompact s := by
+    exact isCompact_of_bounded_of_closed hb hc
```
Comment (themathqueen) [inline Mathlib/Analysis/Normed/Module/WeakDual.lean]:
```suggestion
  have b_isCompact : IsCompact s := isCompact_of_bounded_of_closed hb hc
```

File: Mathlib/Analysis/Normed/Module/WeakDual.lean [hunk 5]
```diff
@@ -255,4 +255,65 @@ theorem isCompact_closedBall [ProperSpace 𝕜] (x' : StrongDual 𝕜 E) (r : 
...
+  have b_isCompact' : CompactSpace s :=
+    isCompact_iff_compactSpace.mp b_isCompact
+  have b_isMetrizable : TopologicalSpace.MetrizableSpace s :=
+    metrizable_of_compact 𝕜 V s b_isCompact
+  have seq_cont_phi : SeqContinuous (fun φ : s ↦ (φ : WeakDual 𝕜 V)) :=
+    continuous_iff_seqContinuous.mp continuous_subtype_val
+  convert IsSeqCompact.range seq_cont_phi
+  simp [Subtype.range_coe_subtype]
```
Comment (themathqueen) [inline Mathlib/Analysis/Normed/Module/WeakDual.lean]:
```suggestion
  simpa using IsSeqCompact.range seq_cont_phi
```

**Review by FormulaRabbit81 — CHANGES_REQUESTED** [review]
Most of these variables were declared just above!

File: Mathlib/Analysis/Normed/Module/WeakDual.lean [hunk 6]
```diff
@@ -255,4 +255,65 @@ theorem isCompact_closedBall [ProperSpace 𝕜] (x' : StrongDual 𝕜 E) (r : 
...
+  obtain ⟨gs, gs_cont, gs_sep⟩ := exists_continuous_separating 𝕜 V
+  let hs : ℕ → K → 𝕜 := fun n ↦ fun ϕ ↦ gs n (ϕ : WeakDual 𝕜 V)
+  refine Metric.PiNatEmbed.TopologicalSpace.MetrizableSpace.of_countable_separating
+    (fun n k ↦ gs n k) (fun n ↦ (gs_cont n).comp continuous_subtype_val)
+    fun x y hxy ↦ gs_sep <| Subtype.val_injective.ne hxy
+
+variable (𝕜 : Type*) [NontriviallyNormedField 𝕜] [ProperSpace 𝕜]
+variable (V : Type*) [SeminormedAddCommGroup V] [NormedSpace 𝕜 V]
+variable [TopologicalSpace.SeparableSpace V]
+variable (K : Set (WeakDual 𝕜 V)) (K_cpt : IsCompact K)
```
Comment (FormulaRabbit81) [inline Mathlib/Analysis/Normed/Module/WeakDual.lean]:
```suggestion
variable [ProperSpace 𝕜] (K_cpt : IsCompact K)
```

**Review by FormulaRabbit81 — CHANGES_REQUESTED** [review]

File: Mathlib/Analysis/Normed/Module/WeakDual.lean [hunk 7]
```diff
@@ -255,4 +256,59 @@ theorem isCompact_closedBall [ProperSpace 𝕜] (x' : StrongDual 𝕜 E) (r : 
     IsCompact (toStrongDual ⁻¹' closedBall x' r) :=
   isCompact_of_bounded_of_closed isBounded_closedBall (isClosed_closedBall x' r)
 
+variable (𝕜 : Type*) [NontriviallyNormedField 𝕜]
+variable (V : Type*) [SeminormedAddCommGroup V] [NormedSpace 𝕜 V]
+variable [TopologicalSpace.SeparableSpace V]
+variable (K : Set (WeakDual 𝕜 V))
```
Comment (FormulaRabbit81) [inline Mathlib/Analysis/Normed/Module/WeakDual.lean]:
```suggestion
variable (𝕜 V : Type*) [NontriviallyNormedField 𝕜] [SeminormedAddCommGroup V] [NormedSpace 𝕜 V]
variable [TopologicalSpace.SeparableSpace V] (K : Set (WeakDual 𝕜 V))
```

File: Mathlib/Analysis/Normed/Module/WeakDual.lean [hunk 8]
```diff
@@ -255,4 +256,59 @@ theorem isCompact_closedBall [ProperSpace 𝕜] (x' : StrongDual 𝕜 E) (r : 
...
+variable [ProperSpace 𝕜] (K_cpt : IsCompact K)
+
+theorem isSeqCompact_of_bounded_of_closed {s : Set (WeakDual 𝕜 V)}
+    (hb : Bornology.IsBounded (StrongDual.toWeakDual ⁻¹' s)) (hc : IsClosed s) :
+    IsSeqCompact s := by
+  have b_isCompact : IsCompact s := isCompact_of_bounded_of_closed hb hc
+  have b_isCompact' : CompactSpace s :=
+    isCompact_iff_compactSpace.mp b_isCompact
+  have b_isMetrizable : TopologicalSpace.MetrizableSpace s :=
+    metrizable_of_compact 𝕜 V s b_isCompact
```
Comment (FormulaRabbit81) [inline Mathlib/Analysis/Normed/Module/WeakDual.lean]:
```suggestion
  have b_isCompact' : CompactSpace s :=
    isCompact_iff_compactSpace.mp <| isCompact_of_bounded_of_closed hb hc
  have b_isMetrizable : TopologicalSpace.MetrizableSpace s :=
    metrizable_of_compact 𝕜 V s <| isCompact_of_bounded_of_closed hb hc
```

File: Mathlib/Analysis/Normed/Module/WeakDual.lean [hunk 9]
```diff
@@ -255,4 +256,56 @@ theorem isCompact_closedBall [ProperSpace 𝕜] (x' : StrongDual 𝕜 E) (r : 
     IsCompact (toStrongDual ⁻¹' closedBall x' r) :=
   isCompact_of_bounded_of_closed isBounded_closedBall (isClosed_closedBall x' r)
 
+variable (𝕜 V : Type*) [NontriviallyNormedField 𝕜] [SeminormedAddCommGroup V] [NormedSpace 𝕜 V]
+variable [TopologicalSpace.SeparableSpace V] (K : Set (WeakDual 𝕜 V))
+
+/- There exists a sequence of continuous functions that separates points on the weak dual. -/
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Module/WeakDual.lean]: Docstrings get two dashes, otherwise they are just comments.
```suggestion
/-- In a separable normed space, there exists a sequence of continuous functions that
separates points of the weak dual. -/
```

File: Mathlib/Analysis/Normed/Module/WeakDual.lean [hunk 10]
```diff
@@ -255,4 +256,56 @@ theorem isCompact_closedBall [ProperSpace 𝕜] (x' : StrongDual 𝕜 E) (r : 
...
+lemma exists_continuous_separating : ∃ (gs : ℕ → (WeakDual 𝕜 V) → 𝕜),
+    (∀ n, Continuous (gs n)) ∧ (∀ ⦃x y⦄, x≠y → ∃ n, gs n x ≠ gs n y) := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Module/WeakDual.lean]:
```suggestion
    (∀ n, Continuous (gs n)) ∧ (∀ ⦃x y⦄, x ≠ y → ∃ n, gs n x ≠ gs n y) := by
```
Also, I'm not going to make you change it for this PR since you already have the background API, but I would recommend that you consider a small refactor to use `Set.SeparatesPoints`. It may be that it's worse, but it seems a shame not to be able to use the API that already exists.

File: Mathlib/Analysis/Normed/Module/WeakDual.lean [hunk 11]
```diff
@@ -255,4 +256,56 @@ theorem isCompact_closedBall [ProperSpace 𝕜] (x' : StrongDual 𝕜 E) (r : 
     IsCompact (toStrongDual ⁻¹' closedBall x' r) :=
   isCompact_of_bounded_of_closed isBounded_closedBall (isClosed_closedBall x' r)
 
+variable (𝕜 V : Type*) [NontriviallyNormedField 𝕜] [SeminormedAddCommGroup V] [NormedSpace 𝕜 V]
+variable [TopologicalSpace.SeparableSpace V] (K : Set (WeakDual 𝕜 V))
+
+/- There exists a sequence of continuous functions that separates points on the weak dual. -/
+lemma exists_continuous_separating : ∃ (gs : ℕ → (WeakDual 𝕜 V) → 𝕜),
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Module/WeakDual.lean]: I know they are continuous, but the countability is the salient feature.
```suggestion
lemma exists_countable_separating : ∃ (gs : ℕ → (WeakDual 𝕜 V) → 𝕜),
```

File: Mathlib/Analysis/Normed/Module/WeakDual.lean [hunk 12]
```diff
@@ -255,4 +256,56 @@ theorem isCompact_closedBall [ProperSpace 𝕜] (x' : StrongDual 𝕜 E) (r : 
...
+  set vs := TopologicalSpace.denseSeq V
+  use (fun n ↦ fun ϕ ↦ (ϕ : WeakDual 𝕜 V) (vs n))
+  constructor
+  · exact fun n ↦ WeakDual.eval_continuous (vs n)
+  · intro w y w_ne_y
+    contrapose! w_ne_y
+    have : Set.EqOn w y (.range vs) := by
+      simpa [Set.eqOn_range] using (Set.eqOn_univ (w ∘ vs) (y ∘ vs)).mp fun x _ ↦ w_ne_y x
+    exact DFunLike.coe_fn_eq.mp (Continuous.ext_on (TopologicalSpace.denseRange_denseSeq V)
+      (map_continuous w) (map_continuous y) this)
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Module/WeakDual.lean]: minor clean-up. Note the `grind` call. You'll need to `open TopologicalSpace` somewhere, preferably prior to your `SeparableSpace` variable above.
```suggestion
  use (fun n φ ↦ φ (denseSeq V n))
  constructor
  · exact fun _ ↦ eval_continuous _
  · intro w y w_ne_y
    contrapose! w_ne_y
    exact DFunLike.ext'_iff.mpr <| (map_continuous w).ext_on
      (denseRange_denseSeq V) (map_continuous y) (by grind [Set.eqOn_range])
```

File: Mathlib/Analysis/Normed/Module/WeakDual.lean [hunk 13]
```diff
@@ -255,4 +256,56 @@ theorem isCompact_closedBall [ProperSpace 𝕜] (x' : StrongDual 𝕜 E) (r : 
...
+    metrizable_of_compact 𝕜 V s <| isCompact_of_bounded_of_closed hb hc
+  have seq_cont_phi : SeqContinuous (fun φ : s ↦ (φ : WeakDual 𝕜 V)) :=
+    continuous_iff_seqContinuous.mp continuous_subtype_val
+  simpa using IsSeqCompact.range seq_cont_phi
+
+/-- The **Sequential Banach-Alaoglu theorem**: the polar set of a neighborhood `s` of the origin in
+a separable normed space `V` is a sequentially compact subset of `WeakDual 𝕜 V`. -/
+theorem isSeqCompact_polar {s : Set V} (s_nhd : s ∈ 𝓝 (0 : V)) :
+    IsSeqCompact (polar 𝕜 s) :=
+  WeakDual.isSeqCompact_of_bounded_of_closed (s := polar 𝕜 s) _ _
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Module/WeakDual.lean]:
```suggestion
  isSeqCompact_of_bounded_of_closed (s := polar 𝕜 s) _ _
```

File: Mathlib/Analysis/Normed/Module/WeakDual.lean [hunk 14]
```diff
@@ -255,4 +256,56 @@ theorem isCompact_closedBall [ProperSpace 𝕜] (x' : StrongDual 𝕜 E) (r : 
...
+    (NormedSpace.isBounded_polar_of_mem_nhds_zero 𝕜 s_nhd) (isClosed_polar _ _)
+
+/-- The **Sequential Banach-Alaoglu theorem**: closed balls of the dual of a separable
+normed space `V` are sequentially compact in the weak-* topology. -/
+theorem isSeqCompact_closedBall (x' : StrongDual 𝕜 V) (r : ℝ) :
+    IsSeqCompact (WeakDual.toStrongDual ⁻¹' Metric.closedBall x' r) :=
+  WeakDual.isSeqCompact_of_bounded_of_closed 𝕜 V Metric.isBounded_closedBall
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Module/WeakDual.lean]:
```suggestion
    IsSeqCompact (toStrongDual ⁻¹' Metric.closedBall x' r) :=
  isSeqCompact_of_bounded_of_closed 𝕜 V Metric.isBounded_closedBall
```

**Review by j-loreaux — COMMENTED** [review]
Thanks! I'm excited we have this!

File: Mathlib/Analysis/Normed/Module/WeakDual.lean (hunk 10 above)
Comment (janemms) [reply Mathlib/Analysis/Normed/Module/WeakDual.lean]: Okay I'll try it, thank you!

File: Mathlib/Analysis/Normed/Module/WeakDual.lean [hunk 15]
```diff
@@ -259,4 +260,56 @@ theorem isCompact_closedBall [ProperSpace 𝕜] (x' : StrongDual 𝕜 E) (r : 
...
+  use (fun n φ ↦ φ (denseSeq V n))
+  constructor
+  · exact fun _ ↦ eval_continuous _
+  · intro w y w_ne_y
+    contrapose! w_ne_y
+    exact DFunLike.ext'_iff.mpr <| (map_continuous w).ext_on
+      (denseRange_denseSeq V) (map_continuous y) (by grind [Set.eqOn_range])
+
+/-- A compact subset of the dual space of a separable space is metrizable. -/
+lemma metrizable_of_compact (K_cpt : IsCompact K) : TopologicalSpace.MetrizableSpace K := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Module/WeakDual.lean]:
```suggestion
lemma metrizable_of_isCompact (K_cpt : IsCompact K) : TopologicalSpace.MetrizableSpace K := by
```

File: Mathlib/Analysis/Normed/Module/WeakDual.lean [hunk 16]
```diff
@@ -259,4 +260,56 @@ theorem isCompact_closedBall [ProperSpace 𝕜] (x' : StrongDual 𝕜 E) (r : 
...
+  have : CompactSpace K := isCompact_iff_compactSpace.mp K_cpt
+  obtain ⟨gs, gs_cont, gs_sep⟩ := exists_countable_separating 𝕜 V
+  exact Metric.PiNatEmbed.TopologicalSpace.MetrizableSpace.of_countable_separating
+    (fun n k ↦ gs n k) (fun n ↦ (gs_cont n).comp continuous_subtype_val)
+    fun x y hxy ↦ gs_sep <| Subtype.val_injective.ne hxy
+
+variable [ProperSpace 𝕜] (K_cpt : IsCompact K)
+
+theorem isSeqCompact_of_bounded_of_closed {s : Set (WeakDual 𝕜 V)}
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Module/WeakDual.lean]:
```suggestion
theorem isSeqCompact_of_isBounded_of_isClosed {s : Set (WeakDual 𝕜 V)}
```

**Review by j-loreaux — COMMENTED** [review]
Sorry, I should have caught these naming issues the first time round.

bors d+
